US06162445
Preparation of methyl-2-hydroxy-4-[3-hydroxy-3-(4,4-dimethylthiochroman-6-yl)-1-propynyl]benzoate:
2.5 g (10.8 mmol) of α-ethynyl-4,4-dimethyl-6-thiochromanmethanol, 3 g (10.8 mmol) of methyl 2-hydroxy-4-iodobenzoate and 50 ml of triethylamine were introduced into a three-necked flask. The reaction mixture was degassed with nitrogen for 30 min. and then 600 mg (0.86 mmol) of bis(triphenylphosphine)-palladium(II) chloride and 240 mg (1.3 mmol) of copper iodide were added successively. Stirring was carried out at room temperature for four hours, the reaction mixture was evaporated to dryness and the residue obtained was taken up in water and ethyl ether. The organic phase was separated by settling, dried over magnesium sulfate and evaporated. The residue obtained was purified by chromatography on a silica column eluted with dichloromethane. 3.2 g (80%) of methyl 2-hydroxy-4-[3-hydroxy-3-(4,4-dimethylthiochroman-6-yl)-1-propynyl]benzoate, with a melting point of 105°-106° C., were recovered.

reactant | α-ethynyl-4,4-dimethyl-6-thiochromanmethanol | 10.8 mmol, 2.5 g | C(#C)C(O)C=1C=C2C(CCSC2=CC1)(C)C | C14H16OS
reactant | methyl 2-hydroxy-4-iodobenzoate | 10.8 mmol, 3 g | OC1=C(C(=O)OC)C=CC(=C1)I | C8H7IO3
reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | ethyl ether | C(C)OCC | C4H10O
catalyst | bis(triphenylphosphine)-palladium(II) chloride | 0.86 mmol, 600 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 1.3 mmol, 240 mg | [Cu](I)I
product | methyl-2-hydroxy-4-[3-hydroxy-3-(4,4-dimethylthiochroman-6-yl)-1-propynyl]benzoate | COC(C1=C(C=C(C=C1)C#CC(C=1C=C2C(CCSC2=CC1)(C)C)O)O)=O | C22H22O4S
